Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___
 
Chief Complaint:
Rib pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ with hx colon cancer, Afib, HTN, hypothyroid, h/o 
intracranial hemorrhage, h/o C diff, PUD and recurrent duodenal 
polyps,  DDRT (___) on tacrolimus and prednisone with CKD III 
of the transplant  presenting with upper abdominal pain. 

Per ED records: Patient had sudden onset of epigastric and 
bilateral upper quadrant abdominal pain which radiates through 
to her back starting at last night. She does not believe this 
was related to a meal time. This pain has been constant since 
that time. She has a fentanyl patch on but that has not helped 
with this pain. She denies any fevers, nausea, chills, diarrhea 
or vomiting. She notes that this is similar to her colon cancer 
pain but that was in the lower part of her abdomen and this is 
very different and higher up.

In the ED, initial VS were 9 98.2 71 117/70 18 100% RA .  
Exam notable for Epigastric pain with voluntary guarding. No 
tenderness over her right-sided abdominal kidney transplant 
site. Mild left lower quadrant tenderness
 
Labs showed  UTI, leukocytosis

Imaging showed:
CT AP
1. No acute abnormality in the abdomen or pelvis to explain 
patient's reported epigastric and left lower quadrant pain.
2. Extensive rectosigmoid diverticulosis without evidence of 
diverticulitis.
3. No evidence of pancreatitis.
4. No evidence of obstruction. 

EKG NSR @ 72, NA, NI

Received morphine, CTX, tizanidine 
Transfer VS were 8 98.2 80 157/87 19 98% RA  

Renal transplant were consulted  and recommended admission
 
On arrival to the floor, patient reports that she had 
acute-onset bilateral rib (not abdominal) pain yesterday. She 
has never had similar sx in the past. She does endorse pain with 
deep breaths and with palpation. No recent URI/cough. No 
associated F/C. 

She is still having her chronic lower abdominal pain from her 
colon cancer.   She denies constipation/diarrhea. Denies 
dysuria. Denies Chest pain/dizziness. Denies SOB. 

REVIEW OF SYSTEMS:  
(+)PER HPI 
 
Past Medical History:
RENAL:
# s/p cadaveric Renal transplant: ___, ESRD ___ chronic 
reflux nephropathy, on prednisone and tacrolimus; baseline Cr 
1.0-1.2   
# Acute interstitial nephritis ___ presumably from ranitidine 

# Polyneuropathy in renal disease  
# Anemia  of chronic disease
CARDIAC:
# CAD: NSTEMI ___, s/p cardiac cath without intervention 
# Paroxysmal atrial fibrillation 
# Hypertension
# Hyperlipidemia  
# Diastolic dysfunction  
# H/o DVT  
ENDOCRINE:
# Hypothyroidism  
# Osteopenia ___ chronic steroid use
SURGERY
# s/p craniotomy for ICH (?intracranial aneurysm)  
# s/p foot surgeries  
# s/p cholecystecomy, s/p appendectomy  
# Ex lap from sessile duodenal polyps in ___ c/b 
duodenal/gastric perforation requiring ex-lap and omental patch 
repair
GI/HEPATOLOGY
# GERD
# Duodenal polyp
# PUD 
SURGERY
# Osteonecrosis of bilateral feet c/b osteomyelitis 
# osteonecrosis of L hip requiring surgical intervention and 
girdlestone procedure
# s/p cholecystecomy, s/p appendectomy  
# small intestinal adenoma with endoscopic resection c/b bowel 
perforation requiring ex-lap in ___  
# Cataract surgery  
#recurrent duodenal polyp s/p surgical resection ___
INFECTIOUS
# MRSA osteomyelitis ___  
# Hx of c.diff 2 and ___ yrs ago  
# recurrent UTI (lower urinary tract infection)  
PSYCH
# Panic disorder  
HEENT
# Hearing loss of both ears   
MISC
# Chronic low back pain w/ sciatica 

 
Social History:
___
Family History:
Father died ___ CAD at age ___. Mother died young of unknown 
causes.  
 
Physical Exam:
ADMISSION EXAM:
VS:  98.3 PO 148 / 87 82 18 96 Ra 
GENERAL: Pleasant, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry lips
NECK: supple  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs 
CHEST: B/l tenderness over lower ribs and sternum  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, tender in lower abdomen without 
rebound/guarding 
EXTREMITIES: Cool feet, no edema, + venous stasis changes
NEURO: A&Ox3, unable to move L leg ___ hip removal   

DISCHARGE EXAM:
VS:  98.0 147 / 79 83 18 97 RA 
GENERAL: Pleasant, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry lips
NECK: supple  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs 
CHEST: Reproducible tenderness to palpation over the lower ribs 
and sternum  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, nondistended, nontender
EXTREMITIES: Cool feet, no edema, + venous stasis changes
 
Pertinent Results:
==============================
ADMISSION LABS
==============================
___ 07:50PM BLOOD WBC-16.3*# RBC-4.23 Hgb-12.7# Hct-40.7 
MCV-96 MCH-30.0 MCHC-31.2* RDW-15.4 RDWSD-54.9* Plt ___
___ 07:50PM BLOOD Neuts-83* Bands-0 Lymphs-11* Monos-4* 
Eos-0 Baso-0 ___ Myelos-2* AbsNeut-13.53* 
AbsLymp-1.79 AbsMono-0.65 AbsEos-0.00* AbsBaso-0.00*
___ 07:50PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL 
Polychr-OCCASIONAL Tear ___
___ 07:50PM BLOOD Plt Smr-NORMAL Plt ___
___ 08:02PM BLOOD Glucose-89 UreaN-36* Creat-1.4* Na-138 
K-4.9 Cl-102 HCO3-25 AnGap-16
___ 08:02PM BLOOD ALT-13 AST-21 AlkPhos-125* TotBili-0.4
___ 08:02PM BLOOD Albumin-3.7 Calcium-9.7 Phos-2.9 Mg-2.0
___ 01:10AM BLOOD tacroFK-4.7*
___ 08:20PM BLOOD Lactate-1.7
___ 12:50AM URINE Type-RANDOM Color-Yellow Appear-Clear Sp 
___
___ 12:50AM URINE Blood-NEG Nitrite-POS Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-7.0 Leuks-SM
___ 12:50AM URINE ___ Bacteri-MANY Yeast-NONE 
___

===========================
DISCHARGE LABS
===========================
___ 04:17AM BLOOD WBC-9.9 RBC-3.56* Hgb-10.5* Hct-35.3 
MCV-99* MCH-29.5 MCHC-29.7* RDW-15.8* RDWSD-57.5* Plt ___
___ 04:17AM BLOOD Plt ___
___ 04:17AM BLOOD ___ PTT-25.8 ___
___ 04:17AM BLOOD Glucose-128* UreaN-28* Creat-1.2* Na-142 
K-4.5 Cl-107 HCO3-25 AnGap-15
___ 04:17AM BLOOD ALT-15 AST-18 AlkPhos-128* TotBili-0.2
___ 04:17AM BLOOD Calcium-9.0 Phos-3.2 Mg-2.1

==================
INTERIM LABS
==================
___ 06:56AM BLOOD tacroFK-3.5*
___ 04:55AM BLOOD tacroFK-3.4*
___ 04:17AM BLOOD tacroFK-3.9*

====================
MICROBIOLOGY
====================
No growth to date
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 

___ 12:50 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------              <=2 S
AMPICILLIN/SULBACTAM--  =>32 R      <=2 S
CEFAZOLIN-------------   <=4 S      <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
NITROFURANTOIN--------    64 I     <=16 S
PIPERACILLIN/TAZO-----     8 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S

=====================
IMAGING
=====================
CT Abd/Pelvis ___. No acute abnormality in the abdomen 
or pelvis to explain patient's reported 
epigastric and left lower quadrant pain. 
2. Extensive rectosigmoid diverticulosis without evidence of 
diverticulitis. 
3. No evidence of pancreatitis. 
4. No evidence of obstruction. 
  
CXR ___: No acute cardiopulmonary process.  No displaced 
rib fracture seen.  If high 
clinical concern for rib fracture, dedicated rib series or CT is 
more 
sensitive. 

RUQ U/S ___: 1.  Persistent pneumobilia. 
2.  Normal caliber CBD.  Status postcholecystectomy. 
3.  Patent transplant kidney vasculature and no hydronephrosis. 
  

 
Brief Hospital Course:
SUMMARY: ___ h/o ESRD s/p DDRT (___), osteonecrosis of L hip 
s/p girdlestone procedure w/ chronic low back pain, wheelchair 
bound, CAD, hx recurrent C diff, recurrent duodenal polyps who 
presents with rib pain. This was thought to be costochondritis. 
There was also extensive discussion around her goals of care as 
discussed below. She was found to have a UTI and treated with 
ceftriaxone transitioned to ciprofloxacin. She was discharged 
back to her long-term acute care facility. 

ACUTE ISSUES:
#Rib pain: Presented complaining of upper abdominal pain. CXR, 
Abdominal U/S, and CT abdomen/pelvis were performed and were 
unrevealing. On physical exam abdominal exam is benign and 
patient has reproducible tenderness to palpation of the ribs 
consistent with costochondritis. She was given lidocaine 
ointment and PRN Tylenol with some relief.

# Chronic pain: She has several sources of chronic pain 
including polyosteoarthritis, chronic LBP, AVN of the hip s/p L 
total hip arthroplasty s/p hardware removal, R hip OA, 
polyneuropathy, spinal stenosis. Gabapentin was increased to 
200mg BID which she tolerated well. Tizanadine was uptitrated to 
___ TID:PRN also tolerated well. Palliative care was consulted 
and decided to continue acetaminophen, nortriptyline, and 
fentanyl patch at previous doses.

# UTI: Patient has multiple recent UTIs with resistant E.coli. 
Initially presented with leukocytosis; she received one dose of 
ceftriaxone in the ED. Subsequently, urine culture grew out 
Klebsiella and E. coli which were relatively sensitive. She was 
treated with a 14-day course of ciprofloxacin (last day ___.
Her tizanadine must be held while on ciprofloxacin. 

# Passive SI/depression/goals of care: Patient endorsed that she 
is sick of dealing with her chronic illnesses, particularly her 
chronic pain issues. She would like to end her life on her own 
terms by stopping her medications and going to ___, but 
has no active plan for suicide and depression screen was 
negative. Goals of care discussions were held with palliative 
care and her outpatient nephrologist Dr. ___ the 
potential implications and expected course of stopping her 
transplant medications. An informational visit was provided by a 
hospice liaison. 

# h/o duodenal polyps: Last seen by ___ in ___. She 
declined a repeat EGD and does not want additional operations or 
procedures at this time. Omeprazole, sucralfate were continued 
for epigastric discomfort. 

CHRONIC ISSUES:
# S/P renal transplant: s/p cadaveric Renal transplant: 
___, ESRD ___ chronic reflux nephropathy, on prednisone and 
tacrolimus; baseline Cr 1.3. Renal transplant ultrasound normal. 
Her home immunosuppression with prophylaxis were continued 
during this admission. 
# H/o recurrent C diff colitis: S/p 28 day course vancomycin 
125mg Q6H (D1 = ___
#Paroxysmal AFib: patient was continued on Metoprolol for rate 
control without any systemic anticoagulation. 
#Depression: Continued duloxetine. 
#CAD: Continued ASA 81mg, rosuvastatin.  
#ANEMIA: Hgb above prior baseline. 

TRANSITIONAL ISSUES:
- PLEASE STOP TIZANADINE WHILE ON CIPROFLOXACIN (interacts with 
ciprofloxacin). Can restart at ___ TID:PRN when ciprofloxacin 
is complete.
- Discharged on 14-day course of ciprofloxacin (last day 
___. Patient should take 125mg BID of PO vancomycin while 
on ciprofloxacin for C. diff prophylaxis.
- Should have tacrolimus level drawn on ___ 
minutes before her dose. Please fax results to Dr. ___ 
___. 
- Other medication changes: gabapentin uptitrated to 200mg BID, 
lidocaine ointment for rib pain started, tizanadine held. 
Nortriptyline given 10mg QHS at night. 
- Please ensure patient has guardrails up on bed to help with 
mobility while she has costochondritis
- Please continue to discuss goals of care for this patient
- Patient will follow with Dr. ___ nephrologist, as 
well as palliative care for pain control and goals of care
- Please monitor for depression or active suicidal ideation
- Patient may benefit from outpatient urology referral if 
continuing to retain urine
# Code status: DNR/DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. Acyclovir 400 mg PO Q12H 
3. ClonazePAM 0.5 mg PO BID 
4. Fentanyl Patch 50 mcg/h TD Q72H 
5. Levothyroxine Sodium 88 mcg PO DAILY 
6. Lidocaine 5% Ointment 1 Appl TP BID 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO BID 
10. Ondansetron 4 mg PO Q6H:PRN nausea 
11. PredniSONE 5 mg PO DAILY 
12. Rosuvastatin Calcium 40 mg PO QPM 
13. Sucralfate 1 gm PO TID:PRN stomach upset 
14. Tacrolimus 0.5 mg PO Q12H 
15. Aspirin 81 mg PO DAILY 
16. Bisacodyl ___AILY:PRN constipation 
17. Calcitriol 0.5 mcg PO DAILY 
18. Gabapentin 100 mg PO QHS 
19. Nortriptyline 10 mg PO QHS 
20. Tizanidine 2 mg PO BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H  
2.  Lidocaine 5% Patch 1 PTCH TD QAM to ribs  
3.  Vancomycin Oral Liquid ___ mg PO BID  
4.  Acetaminophen 650 mg PO Q6H  
5.  Gabapentin 200 mg PO BID  
6.  Tacrolimus 0.5 mg PO QAM  
7.  Tacrolimus 1 mg PO QHS  
8.  Acyclovir 400 mg PO Q12H  
9.  Aspirin 81 mg PO DAILY  
10.  Bisacodyl ___AILY:PRN constipation  
11.  Calcitriol 0.5 mcg PO DAILY  
12.  ClonazePAM 0.5 mg PO BID  
13.  Fentanyl Patch 50 mcg/h TD Q72H  
14.  Levothyroxine Sodium 88 mcg PO DAILY  
15.  Lidocaine 5% Ointment 1 Appl TP BID  
16.  Metoprolol Succinate XL 50 mg PO DAILY  
17.  Multivitamins 1 TAB PO DAILY  
18.  Nortriptyline 10 mg PO QHS  
19.  Omeprazole 40 mg PO BID  
20.  Ondansetron 4 mg PO Q6H:PRN nausea  
21.  PredniSONE 5 mg PO DAILY  
22.  Rosuvastatin Calcium 40 mg PO QPM  
23.  Sucralfate 1 gm PO TID:PRN stomach upset  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Costochondritis
Urinary tract infection

SECONDARY DIAGNOSIS:
Atrial fibrillation, paroxysmal
Hypertension
Chronic kidney disease
Osteonecrosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You were admitted to ___ due to rib pain. We did scans of your 
abdomen and chest, which did not show any new diseases to 
explain this pain. We thought this pain was costochondritis, 
which is inflammation of the bones and muscles in the ribs that 
will slowly improve over a few weeks.

You also were found to have bacteria in your urine. We will 
treat this with an antibiotic called ciprofloxacin. You SHOULD 
NOT take tizanadine while on this antibiotic.  

You also met with our palliative care team and hospice liaison 
to receive more information regarding hospice. We hope this was 
helpful to you. A follow up appointment with our palliative care 
team has been scheduled for you as described below. 

We made some changes to your pain medications. Please review 
carefully.

We wish you all the best!
- Your ___ care team
 
Followup Instructions:
___